US07057042B2
2-{[4-(3-methyl-2-pyridinyl)-1-piperazinyl]methyl}furo[3,2-b]pyridine
The product from Example 35B, 1-(3-methyl-2-pyridinyl)piperazine, and sodium triacetoxyborohydride were processed as described in Example 35C to provide the title compound. 1H NMR (CDCl3, 300 MHz) 62.68 (m, 4H), 3.29 (s, 3H), 3.58 (m, 4H), 3.79 (s, 2H), 6.41 (d, J=8.48 Hz, 1H), 6.49 (d, J=7.12 Hz, 1H), 6.85 (s, 1H), 7.18 dd, J=4.75, 8.14 Hz, 1H), 7.36 (dd, J=7.12, 8.14 Hz, 1H), 7.73 (dd, J=1.02, 8.14 Hz, 1H), 8.51 (dd, J=1.36, 4.75 Hz, 1H); MS (DCI/NH3) m/z 309.2 (M+H)+.

reactant | 1-(3-methyl-2-pyridinyl)piperazine | CC=1C(=NC=CC1)N1CCNCC1 | C10H15N3
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 2-{[4-(3-methyl-2-pyridinyl)-1-piperazinyl]methyl}furo[3,2-b]pyridine | CC=1C(=NC=CC1)N1CCN(CC1)CC1=CC2=NC=CC=C2O1 | C18H20N4O
